US08168833B2
To a solution of naphthalen-2-yl diethylcarbamate (73.0 mg, 0.3 mmol) and Cp2ZrCl2 (265.8 mg, 0.9 mmol, 3 eq.) in THF (4 mL) at 0° C. was added 1 M THF solution of LiAlH(Ot-Bu)3 (0.9 mL, 0.9 mmol, 3 eq.). After addition, the resultant cloudy mixture was warmed to RT and stirred for 3 hours. The reaction was quenched by H2O. The procedures outlined in Example 1a regarding acidification, extraction, and purification were performed. Naphthalen-2-ol (40.8 mg, 95% yield) was obtained as a colorless solid. Its melting point was determined to be 120-121° C. (EtOAc/hexanes). NMR (400 MHz, CDCl3) δ ppm: 7.77 (m, 2H), 7.69 (d, J=8.23 Hz, 1H), 7.44 (td, J=7.52, 0.99 Hz, 1H), 7.34 (td, J=7.51, 0.98 Hz, 1H), 7.15 (d, J=2.33 Hz, 1H), 7.11 (dd, J=8.80, 2.51 Hz, 1H), 5.06 (brs, 1H). 13C NMR (101 MHz, CDCl3) δ ppm: 153.26, 134.55, 129.84, 128.93, 127.74, 126.51, 126.34, 123.61, 117.69, 109.48. The physical and spectral data were consistent with those reported by Morley et al. (see Morley, J. A.; Woolsey, N. F., J. Org. Chem. 1992, 57, 6487-95), who reported a melting point of 121-123° C.

reactant | naphthalen-2-yl diethylcarbamate | 0.3 mmol, 73.0 mg | C(C)N(C(OC1=CC2=CC=CC=C2C=C1)=O)CC | C15H17NO2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | Naphthalen-2-ol | 40.8 mg, 95% yield | C1=C(C=CC2=CC=CC=C12)O | C10H8O
